US08466289B2
Synthesis of Intermediate 8-Amino-1-benzyl-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (I-3c)
Following the procedure set forth in Example 1 for the preparation of I-1g, 1-benzyl-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (280 mg, 0.001 mol) in THF (30 mL) was reacted with zinc (211 mg, 0.003 mol) and HCl (1 mL) to afford 250 mg of the crude product which was used in the next step without further purification.

reactant | 1-benzyl-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 0.001 mol, 280 mg | C(C1=CC=CC=C1)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)[N+](=O)[O-] | C21H18FIN4O3
reactant | HCl | 1 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | zinc | 0.003 mol, 211 mg | [Zn] | Zn
product | 8-Amino-1-benzyl-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 250 mg | NC1=C2N(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)CCN2CC2=CC=CC=C2 | C21H20FIN4O
